US05925667
1-ethyl-2-(3,5-digeranyloxybenzoylaminomethyl)pyrrolidine
In a manner identical to Example 15, 3,5-digeranyloxybenzoic acid (2.13 g) was subjected to a condensation reaction with 2-aminomethyl-1-ethylpyrrolidine (0.7 ml), thereby yielding 2.14 g (82%) of the aimed compound

reactant | 3,5-digeranyloxybenzoic acid | 2.13 g | C(\C=C(/C)\CCC=C(C)C)OC=1C=C(C(=O)O)C=C(C1)OC\C=C(/C)\CCC=C(C)C | C27H38O4
reactant | 2-aminomethyl-1-ethylpyrrolidine | 0.7 ml | NCC1N(CCC1)CC | C7H16N2
product | 1-ethyl-2-(3,5-digeranyloxybenzoylaminomethyl)pyrrolidine | 2.14 g, 82% | C(C)N1C(CCC1)CNC(C1=CC(=CC(=C1)OC\C=C(/C)\CCC=C(C)C)OC\C=C(/C)\CCC=C(C)C)=O | C34H52N2O3
